US07151105B2
Step 1: 1-(4-Ethoxy-2-hydroxy-phenyl)-ethanone
Potassium carbonate (13.6 g, 99 mmol) followed by ethyl iodide (2.4 mL, 29.6 mmol) were added to a solution of 2′,4′-dihydroxyacetophenone (5 g, 33 mmol) in DMF (50 mL). The mixture was stirred for 4 hours and then partitioned between H2O and EtOAc. The organic layer was washed with satd NaHCO3, brine, dried over Na2SO4 and concentrated to a clear oil. Purification by column chromatography gave the product as a white solid (3.7 g, 63%). 1H NMR (400 MHz, CDCl3): δ 1.43 (t, J=6.8 Hz, 3 H), 2.55 (s, 3 H), 4.07 (d, J=7.1 Hz, 2 H), 6.40 (s, 1 H), 6.43 (d, J=8.8 Hz, 1 H), 7.62 (d, J=8.8 Hz, 1 H), 12.74 (s, 1 H).

reactant | Potassium carbonate | 99 mmol, 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 29.6 mmol, 2.4 mL | C(C)I | C2H5I
reactant | 2′,4′-dihydroxyacetophenone | 33 mmol, 5 g | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(4-Ethoxy-2-hydroxy-phenyl)-ethanone | 3.7 g, 63% | C(C)OC1=CC(=C(C=C1)C(C)=O)O | C10H12O3
